US08304419B2
Step A: 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
To a solution of N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (112 mg, 0.180 mmol) and 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) dichloromethane complex (7.33 mg, 8.98 μmol) in THF (10 ml) was added DIBAL-H (1.0 M solution in DCM) (2.55 mg, 0.018 mmol), followed by diethylzinc (1.0 M solution in heptane) (22.18 mg, 0.180 mmol). The reaction mixture was stirred for one hour at 60° C., cooled to room temperature, diluted with EtOAc and washed with water. The solvent was removed and the crude material (64 mg) was used directly in the next step without purification. LC-MS (ES+) m/z 572 [M+H].

reactant | N-({3-[(3-bromo-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.180 mmol, 112 mg | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C23H24BrCl3FN3O3Si
reactant | DIBAL-H | 0.018 mmol, 1.0 M, 2.55 mg | CC(C)C[AlH]CC(C)C
reactant | diethylzinc | 0.180 mmol, 1.0 M, 22.18 mg | C(C)[Zn]CC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-ethylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC)Cl)F)COCC[Si](C)(C)C | C25H29Cl3FN3O3Si
